US05244890
To a suspension of 7β-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(1-methyl-4-tert-butoxycarbonyl-1-piperazinio)methyl-3-cephem-4-carboxylate hydrochloride (syn isomer) (4.02 g) in methanol (12 ml) was added conc. hydrochloric acid (4.4 ml) at 10° C. The resulting solution was warmed to room temperature and stirred for 4.5 hours. The mixture was pulverized with ethyl acetate (800 ml) and the powder was collected by filtration, washed with ethyl acetate and dried in vacuo. The powder (3.68 g) was suspended in a mixture of dichloromethane (12 ml) and anisole (4 ml), and trifluoroacetic acid (8 ml) was added thereto. After being stirred at room temperature for 3.5 hours, the mixture was pulverized with diisopropyl ether (800 ml) and the powder was collected by filtration and washed with diisopropyl ether. The powder was suspended in a mixture of water (100 ml) and ethyl acetate (30 ml) and adjusted with a saturated aqueous solution of sodium bicarbonate. After removal of the insoluble materials, the aqueous layer was separated, adjusted to pH 4 with 1N hydrochloric acid and chromatographed on Diaion HP-20 (250 ml). The elution was carried out with 10% aqueous isopropyl alcohol. The eluate was lyophilized to give 7β-[2-(2-aminothiazol- 4-yl)-2-carboxymethoxyiminoacetamido]-3-(1-methyl-1-piperazinio)methyl-3-cephem-4-carboxylate (syn isomer) (763 mg).

reactant | 7β-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-(1-methyl-4-tert-butoxycarbonyl-1-piperazinio)methyl-3-cephem-4-carboxylate hydrochloride | 4.02 g | Cl.C(=O)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCN(CC2)C(=O)OC(C)(C)C)C)C(=O)[O-])C1=O)=NOCC(=O)OC(C)(C)C
reactant | hydrochloric acid | 4.4 ml | Cl | ClH
reactant | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 12 ml | CO | CH4O
product | 7β-[2-(2-aminothiazol- 4-yl)-2-carboxymethoxyiminoacetamido]-3-(1-methyl-1-piperazinio)methyl-3-cephem-4-carboxylate | 763 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCNCC2)C)C(=O)[O-])C1=O)=NOCC(=O)O | C20H25N7O7S2
